US08115006B2
(1) Preparation of pentyl 2-(3-chloropyridin-2-yl)-5-oxopyrazolidine-3-carboxylate
0.75 g of sodium hydroxide was added to a mixed solution comprising 15 ml of 1-pentanol and 30 ml of toluene, followed by dehydration using an azeotropic dehydrator under reflux with heating, and then toluene was distilled off. Further, 20 ml of toluene was added to the reaction system and then toluene was distilled off with heating again, to obtain a 1-pentanol solution of sodium pentaoxide. 2.5 g of 3-chloro-2-hydrazinylpyridine was added to the reaction liquid at from 70 to 80° C. little by little over a period of 5 minutes, and then 5 ml of 1-pentanol was added, followed by heating at from 70 to 80° C. for 25 minutes. Then, a mixed solution comprising 5.1 g of pentyl maleate and 5 ml of 1-pentanol was dropwise added over a period of 15 minutes, followed by reaction at from 70 to 80° C. further for 2 hours. After the reaction liquid was stood to cool, acetic acid was added to the reaction liquid for neutralization, followed by concentration under reduced pressure. Water was added to the residue, followed by extraction with ethyl acetate, and the organic layer was washed with diluted hydrochloric acid and a sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=6/4 to 0/1) to obtain 1.29 g of the desired product (melting point: 66 to 68° C.) in the form of brown crystals.

reactant | 3-chloro-2-hydrazinylpyridine | 2.5 g | ClC=1C(=NC=CC1)NN | C5H6ClN3
reactant | 1-pentanol | 5 ml | C(CCCC)O | C5H12O
reactant | pentyl maleate | 5.1 g | C(\C=C/C(=O)[O-])(=O)OCCCCC
reactant | 1-pentanol | 5 ml | C(CCCC)O | C5H12O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | pentyl 2-(3-chloropyridin-2-yl)-5-oxopyrazolidine-3-carboxylate | 1.29 g | ClC=1C(=NC=CC1)N1NC(CC1C(=O)OCCCCC)=O | C14H18ClN3O3
